US05284847
6-Bromothieno[2,3-b]pyrazine-2,3(1H,4H)-dione
Thieno[2,3-b]pyrazine-2,3(1H,4H)-dione (0.10 g, 0.59 mmol) was reacted with bromine (0.095 g, 0.59 mmol) in acetic acid following the procedure outlined in example 3 (Method E). Yield 0.132 g (91%) of the title compound. M.p. >300° C. 1H-NMR (DMSO-D6, δ): 6.87 (s, 1H), 12.05 (s, 2H).

reactant | Thieno[2,3-b]pyrazine-2,3(1H,4H)-dione | 0.59 mmol, 0.10 g | N1C2=C(NC(C1=O)=O)SC=C2 | C6H4N2O2S
reactant | bromine | 0.59 mmol, 0.095 g | BrBr | Br2
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 6-Bromothieno[2,3-b]pyrazine-2,3(1H,4H)-dione | Yield 0.132 g, 91% | BrC1=CC2=C(NC(C(N2)=O)=O)S1 | C6H3BrN2O2S
